US07618964B2
b) [2-Fluoro-4-(6-nitro-3H-imidazo[4,5-b]pyridin-2-yl)-phenyl]-bis-(2-methoxy-ethyl)-amine
0.5 g 2-(3,4-Difluoro-phenyl)-6-nitro-3H-imidazo[4,5-b]pyridine, 0.1 ml NMP and 0.51 g bis(2-methoxyethyl)-amine were heated to 170 C with stirring for 18 hrs. Volatile materials were removed under vacuum and the residue purified by chromatography, first on silica in dichloromethane/methanol mixtures, and subsequently by preparative HPLC.

reactant | 2-(3,4-Difluoro-phenyl)-6-nitro-3H-imidazo[4,5-b]pyridine | 0.5 g | FC=1C=C(C=CC1F)C1=NC=2C(=NC=C(C2)[N+](=O)[O-])N1 | C12H6F2N4O2
reactant | bis(2-methoxyethyl)-amine | 0.51 g | COCCNCCOC | C6H15NO2
solvent | NMP | 0.1 ml | CN1CCCC1=O | C5H9NO
product | [2-Fluoro-4-(6-nitro-3H-imidazo[4,5-b]pyridin-2-yl)-phenyl]-bis-(2-methoxy-ethyl)-amine | FC1=C(C=CC(=C1)C1=NC=2C(=NC=C(C2)[N+](=O)[O-])N1)N(CCOC)CCOC | C18H20FN5O4
